US07576212B2
(4-Oxo-3-phenyl-4,7-dihydro-thieno[2,3-b]pyridin-6-yl)-acetic acid ethyl ester (0.8 g, 2.5 mmol), and pyridine (0.2 ml, 2.5 mmol) were dissolved in DCM (5 ml) under nitrogen and cooled to 0° C. Trifluoromethanesulfonic anhydride (0.42 ml, 2.5 mmol) was added dropwise and the reaction stirred for 18 h at room temperature. Solvents were removed in vacuo, and the residue was diluted with water (100 ml) and extracted with DCM (2×50 ml). The extracts were combined, dried over magnesium sulphate, filtered and concentrated to a yellow oil, which solidified on prolonged standing to a waxy yellow solid. This was purified on silica, eluting (DCM/petroleum ether (bp.40-60°)), 0-50%) to give (3-Phenyl-4-trifluoromethanesulfonyloxy-thieno[2,3-b]pyridin-6-yl)-acetic acid ethyl ester as a yellow solid. Yield=878 mg, (78%).

reactant | (4-Oxo-3-phenyl-4,7-dihydro-thieno[2,3-b]pyridin-6-yl)-acetic acid ethyl ester | 2.5 mmol, 0.8 g | C(C)OC(CC1=CC(C2=C(N1)SC=C2C2=CC=CC=C2)=O)=O | C17H15NO3S
reactant | pyridine | 2.5 mmol, 0.2 ml | N1=CC=CC=C1 | C5H5N
reactant | Trifluoromethanesulfonic anhydride | 2.5 mmol, 0.42 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (3-Phenyl-4-trifluoromethanesulfonyloxy-thieno[2,3-b]pyridin-6-yl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C2C(=N1)SC=C2C2=CC=CC=C2)OS(=O)(=O)C(F)(F)F)=O | C18H14F3NO5S2
